US08258130B2
A solution of (5-fluoro-1H-indol-3-yl)-acetic acid methyl ester (3 g, 14.8 mmol) in MeCN (25 mL) is treated with Boc2O (4.3 g, 16.3 mmol) and DMAP (200 mg, 1.63 mmol), and the mixture is stirred at rt for 1 h. The mixture is diluted with saturated aqueous NH4Cl (50 mL), and extracted with DCM (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 8% EtOAc in heptane to afford 5-fluoro-3-methoxycarbonylmethyl-indole-1-carboxylic acid tert-butyl ester (1.6 g, 35%). MS: 371 (M+Na+ ACN); 1H NMR (300 MHz, CDCl3): δ 8.09 (m, 1H), 7.59 (s, 1H), 7.17 (m, 1H), 7.04 (m, 1H), 3.72 (s, 3H), 3.67 (s, 2H), 1.55 (s, 9H).

reactant | (5-fluoro-1H-indol-3-yl)-acetic acid methyl ester | 14.8 mmol, 3 g | COC(CC1=CNC2=CC=C(C=C12)F)=O | C11H10FNO2
reactant | Boc2O | 16.3 mmol, 4.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 25 mL | CC#N | C2H3N
catalyst | DMAP | 1.63 mmol, 200 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
product | 5-fluoro-3-methoxycarbonylmethyl-indole-1-carboxylic acid tert-butyl ester | 1.6 g, 35% | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)F)CC(=O)OC | C16H18FNO4
